** sch_path: /var/home/bleroux/Documents/stage_IEMN/analog-asic-design/designs/opamp/testbench.sch
**.subckt testbench
V2 Vdd 0 DC 1.8 AC 1
V1 Vn 0 DC 0.905 AC 0.1
V3 Vp 0 DC 0.895 AC -0.1
I0 Vdd net1 10u
C1 Vout 0 1p
x1 Vdd net1 Vn Vp Vout 0 opamp
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt



.control

ac dec 100 1 1G
let diff_in = v(Vp) - v(Vn)
let diff_gain = v(Vout)/diff_in
let psrr_plus = v(Vout)/v(Vdd)

plot db(diff_gain)
plot db(psrr_plus)

.endc


**** end user architecture code
**.ends

* expanding   symbol:  /var/home/bleroux/Documents/stage_IEMN/analog-asic-design/designs/opamp/opamp.sym # of pins=6
** sym_path: /var/home/bleroux/Documents/stage_IEMN/analog-asic-design/designs/opamp/opamp.sym
** sch_path: /var/home/bleroux/Documents/stage_IEMN/analog-asic-design/designs/opamp/opamp.sch
.subckt opamp VDD Vref Vn Vp Vout Vss
*.ipin Vn
*.ipin Vp
*.opin Vout
*.iopin VDD
*.iopin Vref
*.iopin Vss
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt

**** end user architecture code
XM3 net2 Vn net1 net1 sg13_lv_nmos w=0.15u l=0.13u ng=1
XM4 net3 Vp net1 net1 sg13_lv_nmos w=0.15u l=0.13u ng=1
XM5 net2 net2 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
XM6 net3 net2 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
XM7 net1 Vref Vss Vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM8 Vout Vref Vss Vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM9 Vref Vref Vss Vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM10 Vout net3 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
C1 Vout net3 10p
.ends

.end
